US08022205B2
4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid allyl ester (D-40)
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (41.4 mg, 0.0769 mmol) and allyl chloroformate (17 μl, 0.160 mmol) instead of acetic anhydride, in the same manner as Example 1-D-01, a crude product of 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid allyl ester was obtained, and deprotection was further carried out according to the above deprotection reaction method 1, to obtain the desired compound (D-40) as a colorless powder (27.0 mg, 92%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 0.0769 mmol, 41.4 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | allyl chloroformate | 0.160 mmol, 17 μl | ClC(=O)OCC=C | C4H5ClO2
reactant | 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid allyl ester | C(C=C)OC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C34H37N7O5
product | 4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid allyl ester | 27.0 mg, 92% | C(C=C)OC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2 | C18H21N7O3
